US08084490B2
N-(2,3-Dihydro-benzo[1,4]dioxin-2-ylmethyl)-sulfamide (Compound #1)
Racemic 2,3-dihydro-1,4-benzdioxin-2-ylmethylamine (4.4 g, 26 mmol) and sulfamide (5.1 g, 53 mmol) were combined in 1,4 dioxane (100 mL) and refluxed for 2 h. The reaction was cooled to room temperature and a small amount of solid was filtered and discarded. The filtrate was evaporated in vacuo and the residue was purified using flash column chromatography (DCM:Methanol—10:1) to yield a white solid. The solid was recrystallized from DCM to yield the title compound as a white solid.

reactant | Racemic 2,3-dihydro-1,4-benzdioxin-2-ylmethylamine | 26 mmol, 4.4 g | O1C(COC2=C1C=CC=C2)CN | C9H11NO2
reactant | sulfamide | 53 mmol, 5.1 g | S(=O)(=O)(N)N | H4N2O2S
solvent | 1,4 dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | N-(2,3-Dihydro-benzo[1,4]dioxin-2-ylmethyl)-sulfamide | O1C(COC2=C1C=CC=C2)CNS(=O)(=O)N | C9H12N2O4S
